US07335660B2
a) 2-((1S)-6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl-ethyl tert-butyl(dimethyl)silyl ether
A 1M solution of tert-butyldimethylsilyl chloride in dichloromethane (30 mL, 30 mmol) was added dropwise under nitrogen to an ice/water-cooled solution of 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol (6.7 g, 24.4 mmol), diisopropylethylamine (6.7 g. 51.8 mmol) and dimethylaminopyridine (0.32 g, 2.5 mmol) in dry dimethylformamide (70 mL). After stirring overnight at room temperature, the mixture was quenched with ice/water and extracted with ether (2×). The combined organic extracts were washed with water (5×), dried (MgSO4) and evaporated in vacuo to give an oil. This was purified by flash chromatography on silica, eluting with ethyl acetate/hexane (0:100 to 10:90), to give the title compound as oil.

reactant | tert-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dichloromethane | 30 mmol, 30 mL | ClCCl | CH2Cl2
reactant | 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol | 24.4 mmol, 6.7 g | BrC=1C=CC2=C(CCO[C@H]2CCO)C1 | C11H13BrO2
reactant | diisopropylethylamine | 51.8 mmol, 6.7 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylaminopyridine | 2.5 mmol, 0.32 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
product | (1S)-6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl-ethyl tert-butyl(dimethyl)silyl ether | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)Br | C17H27BrO2Si
